US08492399B2
a. 7-Methoxy-1,1-dimethyl-3,4-dihydro-1H-napthalen-2-one
A slurry of sodium tent butoxide (21.1 g, 220 mmol) in THF (100 mL) was cooled to 0° C. A solution of 7-methoxy-3,4-dihydro-1H-napthalen-2-one (17.6 g, 100 mmol) and methyl iodide (30.1 g, 220 mmol) in THF (100 mL) was added dropwise over 40 min, and the reaction mixture was warmed to room temperature after 10 min. Water (200 mL) and EtOAc (600 mL) was added. The layers were separated, the organic layer was washed with water (5×100 mL) and saturated NaCl (100 mL), filtered and dried with Na2SO4 to provide the title compound (20 g).

reactant | sodium | [Na] | Na
reactant | butoxide | 220 mmol, 21.1 g | [O-]CCCC
reactant | 7-methoxy-3,4-dihydro-1H-napthalen-2-one | 100 mmol, 17.6 g | COC1=CC=C2CCC(CC2=C1)=O | C11H12O2
reactant | methyl iodide | 220 mmol, 30.1 g | CI | CH3I
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 600 mL | CCOC(=O)C | C4H8O2
solvent | Water | 200 mL | O | H2O
product | 7-Methoxy-1,1-dimethyl-3,4-dihydro-1H-napthalen-2-one | 20 g | COC1=CC=C2CCC(C(C2=C1)(C)C)=O | C13H16O2
